US05023275
To a 500 ml, 4-neck flask equipped with a mechanical stirrer, addition funnel, and a thermometer was placed 80 ml of ethyl acetate which was cooled to 0° C. Concurrently, 12.0 g (0.026 mol) of N,N'-bis-(p-chlorophenyl)-3,3'-dithiodiisobutyramide and 17.7 g (0.131 mol) of sulfuryl chloride then were added, both in 24 equal portions with stirring over a one hour period. After allowing the resulting mixture to warm to room temperature, the yellowish solution was concentrated under reduced pressure. The solid residue was recrystallized from 2-propanol to give 6.1 g (89% yield) of 2-(p-chlorophenyl)-4-methyl-5-chloro-4-isothiazolin-3-one intermediate as white needles whose m.p.=104.5°-106° C.

reactant | N,N'-bis-(p-chlorophenyl)-3,3'-dithiodiisobutyramide | 0.026 mol, 12.0 g | ClC1=CC=C(C=C1)NC(C(CSSCC(C(=O)NC1=CC=C(C=C1)Cl)C)C)=O | C20H22Cl2N2O2S2
reactant | sulfuryl chloride | 0.131 mol, 17.7 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | 2-(p-chlorophenyl)-4-methyl-5-chloro-4-isothiazolin-3-one | 6.1 g, 89% yield | ClC1=CC=C(C=C1)N1SC(=C(C1=O)C)Cl | C10H7Cl2NOS
